US05149864
N-(N'-Phenylcarbamoyl)-2-aminoperoxypropanoic acid
20.8 g (0.01 mol) of N-(N'-phenylcarbamoyl)-2-aminopropanoic acid, 35 g of methanesulfonic acid and 12 g (0.3 mol) of hydrogen peroxide (85% strength by weight) are reacted and worked up as described in Example 3.

reactant | N-(N'-phenylcarbamoyl)-2-aminopropanoic acid | 0.01 mol, 20.8 g | C1(=CC=CC=C1)NC(=O)NC(C(=O)O)C | C10H12N2O3
reactant | methanesulfonic acid | 35 g | CS(=O)(=O)O | CH4O3S
reactant | hydrogen peroxide | 0.3 mol, 12 g | OO | H2O2
product | N-(N'-Phenylcarbamoyl)-2-aminoperoxypropanoic acid | C1(=CC=CC=C1)NC(=O)NC(C(=O)OO)C | C10H12N2O4
